US05470851
1-{2-[1,1-Bis(4-fluorophenyl)ethoxy]ethyl}piperazine
Following a procedure similar to that described in Preparation 8(b), but using 4-{2-[1,1-bis(4-fluorophenyl)ethoxy]ethyl}-1-ethoxycarbonylpiperazine [prepared in a similar manner to that described in Preparation 8(a)], potassium hydroxide and ethylene glycol, the title compound was obtained in a yield of 83%.

reactant | 4-{2-[1,1-bis(4-fluorophenyl)ethoxy]ethyl}-1-ethoxycarbonylpiperazine | FC1=CC=C(C=C1)C(C)(OCCN1CCN(CC1)C(=O)OCC)C1=CC=C(C=C1)F | C23H28F2N2O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 1-{2-[1,1-Bis(4-fluorophenyl)ethoxy]ethyl}piperazine | yield of 83% | FC1=CC=C(C=C1)C(C)(OCCN1CCNCC1)C1=CC=C(C=C1)F | C20H24F2N2O
